US08278341B2
A mixture of 3-(5,7-dihydroindolo[2,3-b]carbazol-6-yl)-N,N-dimethylprop-2-yn-1-amine (30 mg, 0.08891 mmol), 10% Pd/C (10 mg, 0.0094 mmol) and methanol (20 mL) in a 250-mL hydrogenation bottle was filled with H2 and then degassed via house vacuum. This process was repeated three times. The reaction mixture was shaken at room temperature under H2 (30 psi) for 12 hours. The reaction solution was filtered through celite, and concentrated. The residue was subjected to flash chromatography to provide 3-(5,7-dihydroindolo[2,3-b]carbazol-6-yl)-N,N-dimethylpropan-1-amine. (10.2 mg, 34%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.06 (s, 2H), 8.64 (s, 1H), 8.12 (d, J=7.6 Hz, 2H), 7.46 (d, J=8.0 Hz, 2H), 7.34-7.27 (m, 2H), 7.17-7.08 (m, 2H), 3.18 (t, J=7.4 Hz, 2H), 2.31 (t, J=7.2 Hz, 2H), 1.96-1.85 (m, 2H); MS (ESI) m/z 340.3 (M−H)−; MS (ESI) m/z 342.1 (M+H)+

reactant | 3-(5,7-dihydroindolo[2,3-b]carbazol-6-yl)-N,N-dimethylprop-2-yn-1-amine | 0.08891 mmol, 30 mg | C1=C2C=3C=C4C(=C(C3NC2=CC=C1)C#CCN(C)C)NC=1C=CC=CC14 | C23H19N3
catalyst | Pd/C | 0.0094 mmol, 10 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 3-(5,7-dihydroindolo[2,3-b]carbazol-6-yl)-N,N-dimethylpropan-1-amine | C1=C2C=3C=C4C(=C(C3NC2=CC=C1)CCCN(C)C)NC=1C=CC=CC14 | C23H23N3
